US07737166B2
The above-mentioned tert-butyl methyl-{(3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidin-3-yl}carbamate (3.94 g, 11.9 mmol) was dissolved in tetrahydrofuran (120 ml), then with cooling with ice, borane/tetrahydrofuran complex (29.6 ml 35.6 mmol) was added, followed by stirring at room temperature for 17 hours. Ethanol (36 ml), triethylamine (12 ml) and water (12 ml) were added to the reaction liquid, followed by stirring in an oil bath at 80° C. for 2 hours. The reaction liquid was concentrated under reduced pressure, partitioned with ethyl acetate and water, and the aqueous layer was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=1:1, v/v) to obtain tert-butyl methyl-{(3S)-3-methyl-1-[(1R)-1-phenylethyl]pyrrolidin-3-yl}carbamate (2.44 g, 65%) as a colorless oily substance.

reactant | tert-butyl methyl-{(3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidin-3-yl}carbamate | 11.9 mmol, 3.94 g | CN(C(OC(C)(C)C)=O)[C@@]1(CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)C | C19H28N2O3
reactant | Ethanol | 36 ml | C(C)O | C2H6O
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | water | 12 ml | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | tert-butyl methyl-{(3S)-3-methyl-1-[(1R)-1-phenylethyl]pyrrolidin-3-yl}carbamate | 2.44 g, 65% | CN(C(OC(C)(C)C)=O)[C@@]1(CN(CC1)[C@H](C)C1=CC=CC=C1)C | C19H30N2O2
